US07560569B2
In a similar manner to Example 4, (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(benzotriazol-1-yl)oxycarbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (50.0 mg) and 3-pyridylmethylamine (12.0 μL) were used to obtain (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(N-3-pyridylmethylamino)carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (36.2 mg).

reactant | (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(benzotriazol-1-yl)oxycarbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 50.0 mg | C(C1=CC=CC=C1)OC(=O)N(C12CCC(CC1)(CC2)C(=O)ON2N=NC1=C2C=CC=C1)CC(=O)N1[C@@H](C[C@@H](C1)F)C#N | C30H31FN6O5
reactant | 3-pyridylmethylamine | 12.0 μL | N1=CC(=CC=C1)CN | C6H8N2
product | (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(N-3-pyridylmethylamino)carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 36.2 mg | C(C1=CC=CC=C1)OC(=O)N(C12CCC(CC1)(CC2)C(=O)NCC=2C=NC=CC2)CC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C30H34FN5O4
